US08664217B2
Potassium carbonate (2.99 g, 21.6 mmol) and N-(3-bromopropyl)phthalimide (2.32 g, 8.65 mmol) were added to a DMF solution (50 ml) of 1-ethyl-7-hydroxy-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (1.89 g, 7.2 mmol), and stirred at room temperature overnight. Water was added to the reaction mixture, and extraction with ethyl acetate was performed. The organic layer was washed with water and a saturated sodium chloride aqueous solution, in this order. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1→3:7). The purified product was concentrated to dryness under reduced pressure to thereby obtain 2.70 g (yield: 83%) of 7-(3-(1,3-dioxo-1,3-dihydroisoindol-2-yl)propoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione as a white powder.

reactant | Potassium carbonate | 21.6 mmol, 2.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(3-bromopropyl)phthalimide | 8.65 mmol, 2.32 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | 1-ethyl-7-hydroxy-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 7.2 mmol, 1.89 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)O | C14H18N2O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 7-(3-(1,3-dioxo-1,3-dihydroisoindol-2-yl)propoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 2.70 g, yield: 83% | O=C1N(C(C2=CC=CC=C12)=O)CCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C25H27N3O5
